US07074817B2
1-Methyl-6-(4-trifluoromethyl-phenyl)-1H-indole-3-carboxylic acid
To a solution of 1-methyl-6-(4-trifluoromethyl-phenyl)-1H-indole (0.483 g, 1.75 mmol) in dry THF (10 mL) at −78° C. was added n-butyllithium (0.84 mL, 2.1 mmol). The reaction mixture was stirred under nitrogen at −78° C. for 30 minutes then at −50 to −40° C. for 30 minutes. It reaction temperature was cooled to −78° C. and crushed dry ice (3.5 g, 80 mmol) was added. The reaction mixture was stirred overnight at room temperature. It was then concentrated and partitioned in 2N hydrochloric acid and ethyl acetate. The organic phase was washed with water and brine, dried over anhydrous magnesium sulfate and evaporated to dryness. The residue was purified by flash chromatography using 10-50% ethyl aceate in hexane as an eluant. The title compound was obtained as a yellow solid (0.108 g, 19%), mp: 237-239° C. (dec). Mass spectrum (−APCI, [M−H]−) m/z 318. 1HNMR (400 MHz, DMSO-d6): δ 12.8-13.2 (br s, 1H), 8.0 (d, 2H, J=8.1 Hz), 7.95 (s, 1H), 7.75-7.85 (m, 3H), 7.5 (dd, 1H, J=8.3 and 1.5 Hz), 7.25 (s, 1H), and 4.10 ppm (s, 3H).

reactant | 1-methyl-6-(4-trifluoromethyl-phenyl)-1H-indole | 1.75 mmol, 0.483 g | CN1C=CC2=CC=C(C=C12)C1=CC=C(C=C1)C(F)(F)F | C16H12F3N
reactant | n-butyllithium | 2.1 mmol, 0.84 mL | C(CCC)[Li]
reactant | dry ice | 80 mmol, 3.5 g | C(=O)=O | CO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-Methyl-6-(4-trifluoromethyl-phenyl)-1H-indole-3-carboxylic acid | CN1C=C(C2=CC=C(C=C12)C1=CC=C(C=C1)C(F)(F)F)C(=O)O | C17H12F3NO2
